US05412117
To a mixture of 3.9 g of 7,8-dihydro-6,6-dimethyl-7,8-epoxy-6H-pyrano[2,3-f]benzo-2,1,3-oxadiazole and 80 ml of toluene was added dropwise 90 ml of a 1.0M solution of diethyl-aluminum cyanide in toluene with stirring under ice-cooling, followed by stirring at room temperature for 2 hours. The reaction mixture was poured into ice-water, and 2N NaOH was added thereto. The mixture was extracted with methylene chloride, and the organic layer was washed with water and dried. The solvent was removed by distillation, and the residue was purified by silica gel column chromatography (developing solution: CH2Cl2) to obtain 2.9 g of 8-cyano-6,6-dimethyl-6H-pyrano[2,3-f]benzo-2,1,3-oxadiazole represented by formula shown below.

reactant | 7,8-dihydro-6,6-dimethyl-7,8-epoxy-6H-pyrano[2,3-f]benzo-2,1,3-oxadiazole | 3.9 g | CC1(C2C(C=3C(=CC=4C(=NON4)C3)O1)O2)C | C11H10N2O3
reactant | diethyl-aluminum cyanide | [C-]#N.C(C)[Al+]CC
reactant | NaOH | 2N | [OH-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | 8-cyano-6,6-dimethyl-6H-pyrano[2,3-f]benzo-2,1,3-oxadiazole | 2.9 g | C(#N)C1=CC(OC2=CC=3C(=NON3)C=C21)(C)C | C12H9N3O2
